US04754038
A mixture of 2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (1.72 g., 0.01 mol), 2-vinylpyridine (1.0 g., 0.01 mol) and 2 ml. of glacial acetic acid were refluxed in 25 ml. of methanol for 24 hours. The solvent was removed in vacuo and the separated solid was suspended in water. The solution was made slightly basic via the addition of solid potassium carbonate and it was extracted with methylene chloride (4×150 ml.). The methylene chloride layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure to afford 1.2 g. (44% yield) of 2,3,4,9-tetrahydro-2-[2-(2-pyridinyl)ethyl]-1H-pyrido[3,4-b]indole. This intermediate was dissolved in 50 ml. of dimethylformamide and 0.92 g. (0.04 mol) of sodium hydride was added and stirring was continued for 1 hour. To the stirred solution 0.66 g. (0.004 mol) of benzyl bromide was added and the reaction mixture was stirred at room temperature overnight. The solvent was removed under vacuum and the solid residue was suspended in water and extracted with methylene chloride (3×100 ml.). The organic layer was separated, dried and evaporated. The remaining oil was dissolved in ethanol and converted to the dihydrochloride salt; mp 278°-280° C.

reactant | 2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 0.01 mol, 1.72 g | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | 2-vinylpyridine | 0.01 mol, 1.0 g | C(=C)C1=NC=CC=C1 | C7H7N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 2,3,4,9-tetrahydro-2-[2-(2-pyridinyl)ethyl]-1H-pyrido[3,4-b]indole | 44% yield | N1=C(C=CC=C1)CCN1CC=2NC3=CC=CC=C3C2CC1 | C18H19N3
